US06551682B1
(3) Production of 1-(3-butoxy-2-pyridylazo)-2-naphthol (No. L29)
Next, a reaction flask was loaded with the crystals of 2-amino-3-butoxypyridine (4.4 g), ethanol (25 ml), and sodium ethoxide (2.2 g), followed by dropwise addition of isopentyl nitrite (3.8 g) to the flask in 30 minutes with stirring. The resultant mixture was heated and stirred at 75 to 80° C. for four hours for reaction. The heating was stopped, and the reaction mixture was cooled to room temperature, followed by dropwise addition of 2-naphthol (2.6 g) dissolved in ethanol (10 ml) to the mixture in 10 minutes. The resultant mixture was stirred at room temperature for one hour, heated, and stirred at 75 to 80° C. for additional two hours, followed by stopping the heating and then leaving the mixture to stand overnight. The reaction mixture was condensed by an evaporator. The residue was dissolved in ethyl acetate and, after being successively washed with an aqueous solution of sodium hydroxide and water, the ethyl acetate layer was condensed by an evaporator, followed by addition of methanol to the residue for crystallization. The resultant was filtrated and the crystals were dried to give intended crystals (2.5 g).

reactant | 2-amino-3-butoxypyridine | 4.4 g | NC1=NC=CC=C1OCCCC | C9H14N2O
reactant | sodium ethoxide | 2.2 g | [O-]CC.[Na+]
reactant | isopentyl nitrite | 3.8 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-naphthol | 2.6 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(3-butoxy-2-pyridylazo)-2-naphthol | C(CCC)OC=1C(=NC=CC1)N=NC1=C(C=CC2=CC=CC=C12)O | C19H19N3O2
